US05112594
To 2-(3-ethyl-3-butenyloxy)tetrahydropyran (150.0 g, 881.0 mmol) in methanol (600 ml) was added mercuric acetate (309 g, 969 mmol) and the mixture was stirred until it became homogeneous. To this solution was added 0.5N NaOH (500 ml) in one portion followed by dropwise addition of 0.5 N NaBH4 in 0.5 N NaOH (500 ml). The mixture is stirred until mercury metal congeals at the bottom of the flask. The solution is decanted into a separatory funnel and extracted with ether (3×300 ml). The combined ethereal extracts are dried (MgSO4) and concentrated to afford 166 g (93%) of 2-(3-methoxy-3-methylbutyloxy)tetrahydropyran as a colorless liquid.

reactant | 2-(3-ethyl-3-butenyloxy)tetrahydropyran | 881.0 mmol, 150.0 g | C(C)C(CCOC1OCCCC1)=C | C11H20O2
reactant | NaBH4 | 0.5 N | [BH4-].[Na+]
reactant | methanol | 600 ml | CO | CH4O
solvent | NaOH | 0.5 N, 500 ml | [OH-].[Na+]
catalyst | mercury | [Hg] | Hg
solvent | NaOH | 0.5N, 500 ml | [OH-].[Na+]
product | 2-(3-methoxy-3-methylbutyloxy)tetrahydropyran | 166 g, 93% | COC(CCOC1OCCCC1)(C)C | C11H22O3
